Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
"I won't last long"

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old ___ speaking man, with no
previous psychiatric history but endorsing "depression off and
on" is brought in by family for SI with question of plan in the
context of chronic back pain, trouble at work, and potential
revocation of his drivers license. The interview was difficult
because the patient was cooperative but did not elaborate on any
answers and because the interview was done through the daughter
interpreting. The patient explains that he suffers from well
documented chronic back pain and today actually received a
scheduled triamcinolone injection that did not help his
suffering. He says he feels his pain is now worsened by "stress"
and explains that because of 3 car crashes in the last month, 
the
RMV is now demanding he take a re-certifying driving test he is
sure he will fail. He says these accidents are secondary to the
stress of working 2 jobs and never being able to sleep more than
a few hours each day. He says he works as a ___ at a ___
and somewhere else and that these jobs are psychically demanding
especially in light of his chronic back pain. He says that
because of his pain, and the need to go to many appointments for
such, there is now having trouble at work and his supervisors 
are
upset at him. His wife says that the patient now comes home "sad
and stressed." His family says that his sleep has been poor
recently, he is eating less than he usually does, is always
fatigued, seems to have less interests, and is now vaguely
talking about suicide. He makes remarks such as he wants to move
back to ___ because a funeral would be cheaper there or
that he knows he won't last more than one month. When I asked 
him
if he was suicidal he said yes. When asked if he had a plan he 
at
first nodded but then recanted such and said no. Of note, a
family friend ___ suicide last week via OD. The patient and
family deny any evidence of mania. He and his family also deny
any access to weapons that the patient might have. 
 
Past Medical History:
PSYCHIATRIC HISTORY: None reported per family and patient.

PAST MEDICAL HISTORY: HTN and Diabetes and Chronic Back Pain and
Fatty Liver with elevated cholesterol. Spinal surgery for disc
herniation ___

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Patient reports none

 
Physical Exam:
Excerpted from inpatient psychiatry admission note written by 
___, MD dated ___

Physical Examination:
VS:  BP: 111/75  HR: 60   temp: 98   resp: 18  O2 sat: 100    
weight: 177.1 lbs
General- WDWN, middle age man in NAD, sitting in a chair
Skin- Tatoo on left arm, else no rashes or lesions noted
HEENT- NTAC, MMM, oropharynx clear, PEARLL
Lungs- CTAB, regular work of breathing
CV- RRR, no m/r/g
Abdomen: +BS, soft to palpate, no masses felt.
Extremities- WWP, strong peripheral pulses
Neuro- Cranial Nerves ___ grossly intact. ___ strength
throughout. Intact to light touch throughout. Coordination 
intact
on finger to nose testing.

MENTAL STATUS EXAM:
     APPEARANCE & FACIAL EXPRESSION: Middle age man, sitting   
     in a chair, appearing sleepy.
     BEHAVIOR : No abormal behavior noted.
     ATTITUDE: Cooperative but guarded in that provides 
     minimal responses to questions.
     SPEECH: Appears regular although at times rather monotone.
     MOOD: "Stressed"
     AFFECT: Depressed and blunted, congruent
     THOUGHT FORM: Seems linear
     THOUGHT CONTENT: Endorses SI with question of plan,no      
     HI, no AVH.
     INSIGHT AND JUDGMENT: poor/poor
     COGNITIVE ASSESSMENT:
          SENSORIUM: Alert.
          ORIENTATION: Intact
          ATTENTION: Days of week backwards ok
          MEMORY: Unable to assess. Pt got confused.
          CALCULATIONS: Says 7 quarters in $1.75
          FUND OF KNOWLEDGE: Fair
          PROVERB INTERPRETATION: Did not assess due to        
          cultural background
          SIMILARITIES/ANALOGIES: Round to apples/oranges

 
Pertinent Results:
___ 10:10PM URINE  HOURS-RANDOM
___ 10:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:33PM   GLUCOSE-120* UREA N-15 CREAT-0.8 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-30 ANION GAP-14
___ 07:33PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:33PM   WBC-7.6 RBC-5.17 HGB-14.3 HCT-43.0 MCV-83 
MCH-27.6 MCHC-33.2 RDW-13.1
___ 07:33PM   NEUTS-55.5 ___ MONOS-5.2 EOS-0.6 
BASOS-0.8
___ 07:33PM   PLT COUNT-214
___ 06:08PM   GLUCOSE-101* UREA N-15 CREAT-0.8 SODIUM-138 
POTASSIUM-4.9 CHLORIDE-101 TOTAL CO2-30 ANION GAP-12
___ 06:08PM   estGFR-Using this
___ 06:08PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:08PM   WBC-7.5 RBC-5.06 HGB-14.2 HCT-42.3 MCV-84 
MCH-28.0 MCHC-33.5 RDW-13.1
___ 06:08PM   NEUTS-57.2 ___ MONOS-5.6 EOS-0.7 
BASOS-0.3
___ 06:08PM   PLT COUNT-227
 
Brief Hospital Course:
LEGAL: ___
#HTN: continued home atenolol 50mg po daily, lisinopril 2.5mg po 
daily, ASA 81mg po daily
#DM: continued home metformin 500mg po bid, implemented ISS
#Chronic back pain: continued home gabapentin 300mg po daily, 
oxycodone ___ po q6-8h prn pain
#Fatty Liver: LFTs stable

PSYCH
Pt with no past psychiatric hx admitted to inpatient psychiatry 
from ED d/t concern for depression and SI after pt made comment 
to son about 'wanting to move back to ___ because 
funerals are cheaper there.' Per collateral obtained in ED and 
confirmed by primary team following admission, patient's 
daughter, ___, was concerned that pt was suicidal when she 
learned pt had made this statement as pt has been dealing with 
multiple life stressors recently.  Of note, pt works two jobs 
and is still having difficulty affording his rent and other 
bills. Jobs are physcially taxing, and pt suffers from chronic 
pain. Additionally, pt has been in three automobile accidents 
recently, and as a result he received a notice in the mail that 
he must pass a remediation driving test or his licenese will be 
suspended. Per daughter and pt, the prospect of passing this 
test was anxiety-provoking given that pt does not speak ___ 
and the test is in ___ and that pt needs to drive to get to 
work. 

Following admission to inpatient psychiatric unit, pt adamantly 
denied ever being suicidal, stating that the comment he made to 
his son was a joke and that his words were misinterpreted. Pt 
stated that he would never kill himself because of his religion 
and that because he wants to continue living to work, to enjoy 
his weekends off, and to spend time with his family. Pt denied 
feeling depressed in face of increased stress, stating that he 
has to "just deal with it." Did c/o decreased sleep but denied 
anhedonia, denied changes in energy, concentration, appetite. Pt 
did c/o feeling anxiety intermittently related to increased 
stress, denied being unable to function or feeling impaired 
because of this anxiety. Pt received single dose of seroquel 
25mg po on day of admission as a trial for anxiety. Pt stated 
this medicine helped him calm down and sleep well. 

One day following admission, had a family meeting with pt, wife, 
and daughter, ___. Wife stated that she was never concerned 
about her husband being suicidal. Daughter stated that her 
concerns that led to pt's admission were misinterpreted, stating 
that she wanted pt to talk to someone to "help him calm down" 
but did not intend for him to be admitted to psych unit. Family 
and team in agreement that pt safe for discharge. At time of 
discharge, pt denied suicidal ideation, expressed future 
orientation with plans to enjoy ___ with his family and 
return to work next week. Discussed with pt that he is to 
followup with PCP. Wrote pt a prescription for seroquel 25mg po 
daily prn anxiety (#5), discussed side effects including 
drowsiness/sedation. At time of discharge agreed that anxiety 
was appropriate for level of stress, not impairing functioning. 
Instructed pt to monitor his feelings of anxiety and depression, 
seek help from PCP or ER if he noticed his anxiety or mood 
worsening and preventing him from engaging in daily activities.

COLLATERAL:
-Spoke with PCP, ___ at ___ (___). PCP
states that pt has never had any psychiatric issues to his
knowledge, has never c/o depression or anxiety.
-family meeting with wife and daughter, ___, as outlined in 
psychiatry section of hospital course.

SOCIAL/MILEU:
-Pt did not attend groups d/t language barrier
-Patient and family were involved in family meeting focused on 
psychoeducation and discharge planning.

RISK ASSESSMENT: 
-Chronic risk factors for suicide include male sex and age, 
making him at low risk of suicide chronically. Supportive 
factors include wife and children, future orientation, sobriety, 
balanced mood. Patient is currently in good behavioral control, 
sober, and future oriented with plans to enjoy Thanksgivin, 
return to work next week, and f/u with outpt treatment. Do not 
believe pt is at any significant elevated acute risk of suicide 
at this time to warrant inpatient hospitalization.

DISPO:
-home, f/u with PCP, SW to arrange f/u with outpatient therapist

CONTACTS:
Wife ___ at ___ 
Daughter #1 ___ at ___ 
PCP: Dr. ___ on ___ (___)
 
Medications on Admission:
ATENOLOL - atenolol 50 mg tablet. 1 Tablet(s) by mouth daily
GABAPENTIN - gabapentin 300 mg capsule. 1 capsule(s) by mouth
three times a day Week 1: 1 tablet qhs Week 2: 1 tablet bid Week
3: 1 tablet tid
LISINOPRIL - lisinopril 2.5 mg tablet. 1 Tablet(s) by mouth 
daily
METFORMIN - metformin 500 mg tablet. 1 tablet(s) by mouth twice 
a
day with meals
OXYCODONE - oxycodone 5 mg tablet. 1- 2 Tablet(s) by mouth every
6 to 8 hours as needed as needed for for pain
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 Tablet(s) by
mouth daily
BLOOD SUGAR DIAGNOSTIC [FREESTYLE LITE STRIPS] - FreeStyle Lite
Strips. Use to test blood sugar once a day
DOCUSATE SODIUM [COLACE] - Colace 100 mg capsule. 1 Capsule(s) 
by
mouth twice a day
LANCETS [FREESTYLE LANCETS] - FreeStyle Lancets. Use when 
testing
blood sugar once a day 
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
week 1: 300mg po qhs
Week 2: 300mg po bid
Week 3: 300mg po tid 
4. Lisinopril 2.5 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BIDWM 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
Take ___ tabs q6-8hours prn pain 
7. Quetiapine Fumarate 25 mg PO ONCE Duration: 1 Doses 
RX *quetiapine 25 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0
8. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: R/o Anxiety disorder 
AXIS I: Deferred
AXIS III: HTN, DM, Chronic back pain, Fatty liver
AXIS IV: financial, three recent car accidents, chronic back
pain, working two jobs
AXIS V: GAF 50

 
Discharge Condition:
Stable
Ambulatory
MSE:
VITALS: T98.0, 116/71, 58, 18, 98%RA
Appearance: ___ ___, appears stated age, moustache, wearing
hospital gown
Behavior: aggravated attitude, eye contact directed to 
interpreter,
no abnormal movements
Speech: normal rate, normal-loud volume, irritated tone
Mood: 'depressed being in hospital, otherwise good'
Affect: full range, appropriate. irritated by hospitalization 
but mostly calm and cooperative
TP: linear, goal oriented
TC: denies AH,VH, denies SI, denies plan for suicide. 
J/I: Good

 
Discharge Instructions:
During your admission at ___, you were not diagnosed with a 
mental illness. Please follow up with all outpatient 
appointments as listed.
Please continue all medications as directed.
Please avoid abusing alcohol and any drugs--whether prescription 
drugs or illegal drugs--as this can further worsen your medical 
and psychiatric illnesses.
Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
Please call ___ or go to your nearest emergency room if you feel 
unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you and we wish you the 
best of health.
If you need to talk to a ___ Staff Member regarding issues of 
your hospitalization, please call ___
 
Followup Instructions:
___